US05164388
2-(R)-Benzyl-3,6-diketo-piperazine
The crude product D-Phe-Gly-OMe (6 g, 25 mmol) was powdered and then dispersed in 100 ml toluene and heated at reflux overnight. The reaction flask was cooled to 0° C. and the solid product (3.50 9, 69%) was collected by filtration: m.p. 256°-257° C.; DCI-NH3 -MS, m/z (relative intensity), 222 (MNH4+, 100%), 205 (MH+, 31%);

reactant | D-Phe-Gly-OMe | 25 mmol, 6 g | N[C@H](CC1=CC=CC=C1)C(=O)NCC(=O)OC | C12H16N2O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(R)-Benzyl-3,6-diketo-piperazine | C(C1=CC=CC=C1)[C@H]1NC(CNC1=O)=O | C11H12N2O2
